US09278950B2
Step 1. Benzyl [2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid (0.014 g, 0.034 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate (0.015 g, 0.041 mmol) and HATU (0.033 g, 0.086 mmol) in DMF (0.14 mL), DIPEA (0.018 mL, 0.10 mmol) was added. The mixture was stirred at room temperature for 2 h, then quenched with 5 mL of EtOAc and 3 mL of 1 M NaOH. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic extracts were concentrated under reduced pressure. The resulting residue was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the sub-title compound. LCMS calc. for C39H46F3N8O5 [M+H]+: m/z=763.4. found: 763.5.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid | 0.034 mmol, 0.014 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)O | C23H24N4O4
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate | 0.041 mmol, 0.015 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H23F3N4O2
reactant | HATU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.14 mL | CN(C)C=O | C3H7NO
product | Benzyl [2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C(F)(F)F)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCN(CC1)C | C39H45F3N8O5
